US08748624B2
STEP B: 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)-4,5-difluorophenyl)picolinamido)propanoic acid
A 3M aqueous solution of NaOH (0.34 mL, 1.03 mmol) was added to a THF solution (1.1 mL) of ethyl 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)-4,5-difluorophenyl)picolinamido)propanoate (115 mg, 0.21 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture was concentrated and purified via HPLC to yield the title compound.

reactant | NaOH | 1.03 mmol, 0.34 mL | [OH-].[Na+]
reactant | ethyl 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)-4,5-difluorophenyl)picolinamido)propanoate | 0.21 mmol, 115 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NCC1=C(C=C(C(=C1)F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C30H26ClF2N3O3
solvent | THF | 1.1 mL | C1CCOC1 | C4H8O
product | 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)-4,5-difluorophenyl)picolinamido)propanoic acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NCC1=C(C=C(C(=C1)F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)O | C28H22ClF2N3O3
